US09212348B2
Synthesis of methyl 4-(5-hydroxy-3-isopropyl-1-(2-methyl-1-phenylpropan-2-yl)-1H-pyrazol-4-yl)benzoate (Compound No. 4-23 of the Present Invention)
4-Bromo-3-isopropyl-1-(2-methyl-1-phenylpropan-2-yl)-1H-pyrazol-5-yl benzoate (360 mg, 0.82 mmol) in 1,2-dimethoxyethane (4.8 ml) was mixed with 4-(methoxycarbonyl)phenylboronic acid (164 mg, 0.911 mmol), tetrakis(triphenylphosphine)palladium (80 mg, 0.07 mmol) and 2 M aqueous sodium carbonate (3.6 ml) and stirred at 86° C. for 16 hours under a nitrogen atmosphere. After completion of the reaction, the 1,2-dimethoxyethane was distilled off under reduced pressure, and the reaction solution was extracted with dichloromethane. The organic layer was dried over anhydrous magnesium sulfate and filtered, and the filtrate was purified by intermediate pressure silica gel column chromatography (silica gel 12 g, ethyl acetate:hexane=1:20 to 1:4) to give 100 mg of the desired product as a pale yellow solid mixture of tautomers.

reactant | 4-Bromo-3-isopropyl-1-(2-methyl-1-phenylpropan-2-yl)-1H-pyrazol-5-yl benzoate | 0.82 mmol, 360 mg | C(C1=CC=CC=C1)(=O)OC1=C(C(=NN1C(CC1=CC=CC=C1)(C)C)C(C)C)Br | C23H25BrN2O2
reactant | 4-(methoxycarbonyl)phenylboronic acid | 0.911 mmol, 164 mg | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | sodium carbonate | 2 M, 3.6 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 4.8 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.07 mmol, 80 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 4-(5-hydroxy-3-isopropyl-1-(2-methyl-1-phenylpropan-2-yl)-1H-pyrazol-4-yl)benzoate | 100 mg | OC1=C(C(=NN1C(CC1=CC=CC=C1)(C)C)C(C)C)C1=CC=C(C(=O)OC)C=C1 | C24H28N2O3
